US08835428B2
Step 4: 3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carboxylic acid
The compound 3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carboxylic acid ethyl ester (10.9 g; 23.7 mmol) was dissolved in 100 ml THF by heating at reflux to get a clear solution. To the solution, 1N NaOH (47.4 ml; 44.7 mmol) was added and the reaction mixture was stirred for 2 h. The solvent was removed. The residue was taken up in water and acidified with 2N HCl to pH 2. The solid was filtered and dried to provide 8 g of the title compound in 78.2% yield. 1H NMR (DMSO-d6) δ: 7.18 (m, 1H), 7.54-7.59 (m, 3H), 7.62-7.69 (m 3H), 7.76 (2×d, 1H), 7.84-7.92 (m, 4H), 10.76 (s, 1H); Mass (ES+), 432 (M++1).

reactant | 3-[4-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carboxylic acid ethyl ester | 23.7 mmol, 10.9 g | C(C)OC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)F | C25H18FN3O3S
reactant | NaOH | 44.7 mmol, 1N, 47.4 ml | [OH-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 3-[4-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-5-phenyl-isoxazole-4-carboxylic acid | 8 g, 78.2% yield | FC1=CC2=C(N=C(S2)NC2=CC=C(C=C2)C2=NOC(=C2C(=O)O)C2=CC=CC=C2)C=C1 | C23H14FN3O3S
